US06506901B2
Step E: 4-{[t-Butyl(diphenyl)silyl]oxy}-3-fluorophenol
4-{[t -Butyl(diphenyl)silyl]oxy}-3-fluorophenyl acetate (5.28 g, 12.92 mmol) was dissolved in methanol (100 mL). 1N NaOH (15.5 mL) was added. The solution was stirred for 30 minutes at ambient temperature. 1N HCl (16 mL) was added. The solvent was removed in vacuo and the solid partitioned between dichloromethane and water. The aqueous phase was washed with dichloromethane. The organic layers were combined and the solvent dried over anhydrous magnesium sulfate. The solution was filtered and the solvent evaporated to dryness in vacuo to yield crude title compound (4.5 g, 12.28 mmol).

reactant | 4-{[t -Butyl(diphenyl)silyl]oxy}-3-fluorophenyl acetate | 12.92 mmol, 5.28 g | C(C)(=O)OC1=CC(=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F | C24H25FO3Si
reactant | NaOH | 1N, 15.5 mL | [OH-].[Na+]
reactant | HCl | 1N, 16 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 4-{[t-Butyl(diphenyl)silyl]oxy}-3-fluorophenol | 12.28 mmol, 4.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C=C(C=C1)O)F | C22H23FO2Si
